US04520196
α-[(1H-benzimidazol-2-yl)thio]benzeneacetic acid
An acetone solution of 13.5 g (0.09M) of 2-mercaptobenzimidazole and 19.4 g (0.09M) of α-bromophenylacetic acid containing 10 ml glacial acetic acid is heated for 3 hours. The solid HBr salt upon removal of the solvent is disproportionated by stirring in 1 L of water. The crude material is recrystallied from aqueous acetone. The recrystallized material weighs 24.0 g (92% yield) and melts at 187°-8° C. dec.

reactant | 2-mercaptobenzimidazole | 0.09M, 13.5 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | α-bromophenylacetic acid | 0.09M, 10 ml, 19.4 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | acetone | CC(=O)C | C3H6O
product | α-[(1H-benzimidazol-2-yl)thio]benzeneacetic acid | 92% yield | N1C(=NC2=C1C=CC=C2)SC(C(=O)O)C2=CC=CC=C2 | C15H12N2O2S
